US09359375B2
A solution of 2-(benzyloxycarbonylamino)-4,4,4-trifluorobutanoic acid (200 mg, 0.687 mmol), HOBt monohydrate (137 mg, 0.895 mmol) and EDC (171 mg, 0.890 mmol) in DMF (5 mL) was stirred at room temperature for 15 min, conc. NH4OH (0.250 mL, ca. 3.50 mmol) was added. The mixture was stirred at room temperature for 18 h. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give benzyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate (175 mg).

reactant | 2-(benzyloxycarbonylamino)-4,4,4-trifluorobutanoic acid | 0.687 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CC(F)(F)F | C12H12F3NO4
reactant | HOBt monohydrate | 0.895 mmol, 137 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 0.890 mmol, 171 mg
reactant | NH4OH | ca. 3.50 mmol, 0.250 mL | [NH4+].[OH-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | benzyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate | 175 mg | NC(C(CC(F)(F)F)NC(OCC1=CC=CC=C1)=O)=O | C12H13F3N2O3
